US07262318B2
4-(3,5-Dimethyl-benzylsulfanyl)-nitrobenzene
To a solution of 4-nitrothiophenol (0.400 g, 2.57 mmol), 3,5-dimethylbenzyl alcohol (0.38 ml, 2.57 mmol) and triphenylphosphine (0.743 g, 2.84 mmol) in 10 ml anhydrous tetrahydrofuran was added diethyl azodicarboxylate (0.446 ml, 2.84 mmol). The reaction mixture was stirred overnight at room temperature under nitrogen. It was then diluted with 90 ml ethyl acetate and the resulting solution was washed sequentially with 70 ml saturated aqueous sodium bicarbonate solution, 70 ml water and 70 ml brine, dried (anhydrous sodium sulfate) and concentrated under reduced pressure. The solid residue was triturated with 95:5 hexane/ethyl acetate (20 ml) and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (silica gel, 15 g), eluting with 95:5 hexane/ethyl acetate to yield title compound as a yellow solid (0.35 g, 50% yield). 1H NMR (400 MHz, CD3Cl): δ2.30 (s, 6H), 4.18 (s, 2H), 6.92 (s, 1H), 7.0 (s, 2H), 7.33 (d, 2H), 8.10 (d, 2H).

reactant | 4-nitrothiophenol | 2.57 mmol, 0.400 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | 3,5-dimethylbenzyl alcohol | 2.57 mmol, 0.38 ml | CC=1C=C(CO)C=C(C1)C | C9H12O
reactant | triphenylphosphine | 2.84 mmol, 0.743 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.84 mmol, 0.446 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3,5-Dimethyl-benzylsulfanyl)-nitrobenzene | 0.35 g, 50% yield | CC=1C=C(CSC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1)C | C15H15NO2S
